US04889869
(b) 2(S)-amino-4-cyclohexyl-butyric acid
896 mg of L-homophenylalanine (2(S)-amino-4-phenylbutyric acid) are hydrogenated in 25 ml of water and 5.5 ml of 1N HCl in the presence of 18 mg of Nishimura catalyst (rhodium oxide/platinum oxide). The reaction mixture is filtered while warm. The title compound crystallises out of the filtrate in the form of white crystals after the addition of 5.5 ml of 1N NaOH. M.p. 265°-266°; Rf (R)=0.09.

reactant | L-homophenylalanine | 896 mg | N[C@@H](CCC1=CC=CC=C1)C(=O)O | C10H13NO2
reactant | HCl | 1N, 5.5 ml | Cl | ClH
solvent | water | 25 ml | O | H2O
product | 2(S)-amino-4-cyclohexyl-butyric acid | N[C@H](C(=O)O)CCC1CCCCC1 | C10H19NO2
